Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 

high-dose MTX (started ___ and dexamethasone, presenting 
for cycle 7 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. The plan was to continue on 2 week 
intervals until at least cycle 7 and then reassess. 

On arrival to the floor today he feels well. Reports that he had 
some ___ fried pork last night, after which he had 4 loose 
stools. He had one loose stool this morning. He has no abdominal 
pain, no nausea, no vomiting, no fevers. He has no headache. 
He has increased sensitivity of his R scalp, which has been an 
ongoing problem 
for many years, since he had shingles. he has no runny nose, 
fevers, or cough. He has some tingling in his left foot which is 
stable. His vision he thinks is better overall, but notes that 
he has double vision if he is looking up.

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 
of valacyclovir 1g BID. He has subsequently been transitioned to 
higher dose acyclovir 800mg BID and has not had any breakthrough 
lesions.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest pressure, or weakness. Denies nausea, vomiting, 
constipation, abdominal pain. Denies dysuria, arthralgias or 
myalgias. Denies rashes or skin changes. All other ROS negative  

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
VS: 97.8   118/62     80     18     98%RA
GEN: alert, oriented to name, place and situation. no acute 
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric, 
MMM, OP clear no erythema. frequent squinting of R eye
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no 
sensory loss
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major 
muscle groups
PSYCH: Appropriate and calm.
 
Pertinent Results:
==================================
              Labs
==================================
___ 10:50AM BLOOD WBC-5.0 RBC-3.65* Hgb-12.0* Hct-36.0* 
MCV-99* MCH-32.8* MCHC-33.2 RDW-16.7* Plt ___
___ 06:30AM BLOOD WBC-4.7 RBC-3.57* Hgb-11.2* Hct-34.9* 
MCV-98 MCH-31.5 MCHC-32.2 RDW-16.1* Plt ___
___ 06:10AM BLOOD WBC-4.7 RBC-3.75* Hgb-12.2* Hct-36.8* 
MCV-98 MCH-32.4* MCHC-33.1 RDW-16.3* Plt ___
___ 10:50AM BLOOD ___ PTT-34.2 ___
___ 10:50AM BLOOD Glucose-183* UreaN-17 Creat-0.9 Na-139 
K-3.7 Cl-104 HCO3-24 AnGap-15
___ 07:25AM BLOOD Glucose-100 UreaN-11 Creat-1.0 Na-142 
K-3.4 Cl-98 HCO3-40* AnGap-7*
___ 06:30AM BLOOD Glucose-126* UreaN-10 Creat-1.1 Na-138 
K-4.1 Cl-101 HCO3-30 AnGap-11
___ 06:10AM BLOOD Glucose-138* UreaN-10 Creat-0.9 Na-137 
K-4.1 Cl-102 HCO3-29 AnGap-10
___ 10:50AM BLOOD ALT-23 AST-17 AlkPhos-77 TotBili-0.4
___ 07:25AM BLOOD ALT-19 AST-19 AlkPhos-62 TotBili-0.8
___ 06:30AM BLOOD ALT-25 AST-22 AlkPhos-71 TotBili-0.7
___ 10:50AM BLOOD Albumin-3.9 Calcium-9.4 Phos-3.3 Mg-1.8
___ 07:25AM BLOOD Calcium-8.7 Phos-3.7 Mg-1.7
___ 06:30AM BLOOD mthotrx-0.68
___ 06:10AM BLOOD mthotrx-0.12

==================================
            Radiology            
==================================
MRI head ___
Final Report
STUDY:  MRI of the head with and without contrast.
 
CLINICAL INDICATION:  ___ man with history of CNS 
lymphoma, being
treated with high-dose of methotrexate with residual disease on 
last MRI,
followup examination.
 
COMPARISON:  Multiple prior MRI examinations, the most recent 
dated ___.
 
TECHNIQUE:  Pre-contrast axial and sagittal T1-weighted images 
were obtained,
axial FLAIR, axial T2, axial magnetic susceptibility and axial
diffusion-weighted images.  The T1-weighted sequences were 
repeated after the
administration of gadolinium contrast in axial T1, sagittal 
MP-RAGE and
multiplanar reconstructions were reviewed.
 
FINDINGS:  The patient is status post biopsy at the level of the 
fourth
ventricle on the right, again susceptibility artifacts are 
redemonstrated in
this region as well as mild high signal intensity on the 
corresponding axial
FLAIR (image #11, series #7), with no significant change since 
the prior
study, there is minimal residual enhancement in this area, 
apparently related
with post-surgical change with no evidence of residual mass or 
new areas with
abnormal enhancement.  There is no evidence of hydrocephalus or 
shifting of
the normally midline structures.  The supratentorial sulci and 
ventricles are
unremarkable with no evidence of diffusion abnormalities to 
indicate slow
diffusion.  Unchanged susceptibility artifact related with prior 
right frontal
external ventricular drain.  Major arterial vascular flow voids 
are present
and demonstrate normal distribution.  The orbits are 
unremarkable, the
paranasal sinuses again demonstrate a tiny mucus retention cyst 
on the left
maxillary sinus.
 
IMPRESSION:  Minimal residual enhancement adjacent to the fourth 
ventricle on
the right, with T2 and FLAIR hyperintensity, consistent with 
post-surgical
changes, stable since the prior examination, with no evidence of 
new lesions
or new areas of abnormal enhancement.  Long-term followup is 
advised to
demonstrate stability.

 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 7 high dose 

methotrexate treatment. MRI after cycle 4 showed residual 
disease, so plan was to increase dose to 8g/m2 and continue 
every 2 weeks until cycle 7, then reassess. After urinary 
alkalinization, he received methotrexate 16560mg (8g/m2) on ___ 
at 11pm.  
This was followed by leucovorin rescue 24 hours later. His 
methotrexate 
level on ___ is 0.12. He was continued on bicarbonate fluids 
and leucovorin for another 9 hours after that level and it is 
presumed his level is now less than 0.10. He will be discharged 
home in good condition. He had an MRI on this admission which 
showed post surgical changes and no evidence of residual 
disease. He will now be transitioned to monthly methotrexate 
cycles. He has been asked to report back to ___ on ___ 
for the next cycle (#8). 
For his HSV, he has been on acyclovir 800mg BID and will be 
monitored for symptoms. His blood pressure was slightly low 
while here but he continued his metoprolol and lisinopril at 
12.5mg and 2.5mg respectively with no symptoms of hypotension. 

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q12H 
2. Dexamethasone 0.5 mg PO EVERY OTHER DAY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 2.5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Pravastatin 40 mg PO DAILY 
9. Aspirin 81 mg PO DAILY 
10. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for treatment of 
your brain lymphoma with high dose methotrexate chemotherapy. 
You tolerated the chemo very well with no complications. You 
should return to ___ in 1 month (___) for your next 
treatment.
 
Followup Instructions:
___